US05998433
b) Synthesis of 6-(4-benzoylbenzoyl)-2-piperidinomethyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
6-(4-Benzoylbenzoyl)-2-piperidinomethyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine 0.297 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This was concentrated to yield the desired product.

reactant | 6-(4-Benzoylbenzoyl)-2-piperidinomethyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.297 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCCC3)C=C1 | C27H28N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 6-(4-benzoylbenzoyl)-2-piperidinomethyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCCC3)C=C1 | InChI=1S/C27H28N2O3.ClH/c30-26(20-7-3-1-4-8-20)21-9-11-22(12-10-21)27(31)29-16-13-23-17-24(32-25(23)19-29)18-28-14-5-2-6-15-28;/h1,3-4,7-12,17H,2,5-6,13-16,18-19H2;1H
